US09326973B2
To a solution of tert-butyl 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylate (0.56 g, 2.255 mmol) in THF (4 mL) and MeOH (1 mL) was added 10 N sodium hydroxide (3 mL, 30.0 mmol). The reaction mixture was stirred at rt for 12 h. The reaction was diluted with 1 N HCl, extracted with 2×EtOAc, and the combined organic phase was washed with sat. NaCl, dried (anhydrous Na2SO4), filtered and concentrated to yield 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylic acid (0.35 g, 81% yield) as Cap N-11. 1H NMR (400 MHz, CHLOROFORM-d) ppm 7.48-7.26 (m, 5H), 4.94 (s, 1H), 1.46 (ddd, J=9.8, 7.0, 4.3 Hz, 1H), 1.38-1.30 (m, 1H), 1.08 (ddd, J=9.5, 7.1, 4.3 Hz, 1H), 0.93-0.84 (m, 1H).

reactant | tert-butyl 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylate | 2.255 mmol, 0.56 g | OC(C1(CC1)C(=O)OC(C)(C)C)C1=CC=CC=C1 | C15H20O3
reactant | sodium hydroxide | 30.0 mmol, 10 N, 3 mL | [OH-].[Na+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | MeOH | 1 mL | CO | CH4O
solvent | HCl | 1 N | Cl | ClH
product | 1-(hydroxy(phenyl)methyl)cyclopropanecarboxylic acid | 0.35 g, 81% yield | OC(C1(CC1)C(=O)O)C1=CC=CC=C1 | C11H12O3
